** Name: SymmetricalOpAmp93

.MACRO SymmetricalOpAmp93 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 out2FirstStage out2FirstStage sourceNmos sourceNmos nmos4 L=6e-6 W=8e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos3 innerComplementarySecondStage innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=113e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=7e-6 W=118e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mNormalTransistorNmos6 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=6e-6 W=77e-6
mNormalTransistorNmos7 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=6e-6 W=33e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=118e-6
mNormalTransistorNmos9 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=6e-6 W=33e-6
mNormalTransistorNmos10 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=6e-6 W=77e-6
mNormalTransistorNmos11 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=26e-6
mNormalTransistorNmos12 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=26e-6
mNormalTransistorNmos13 SecondStageYinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=77e-6
mNormalTransistorNmos14 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=77e-6
mNormalTransistorPmos15 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=5e-6 W=221e-6
mNormalTransistorPmos16 out inputVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=13e-6
mNormalTransistorPmos17 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=5e-6 W=221e-6
mNormalTransistorPmos18 out2FirstStage ibias sourcePmos sourcePmos pmos4 L=7e-6 W=394e-6
mNormalTransistorPmos19 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=7e-6 W=59e-6
mNormalTransistorPmos20 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=7e-6 W=580e-6
mNormalTransistorPmos21 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=113e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp93

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 1.88501 mW
** Area: 12544 (mu_m)^2
** Transit frequency: 13.2451 MHz
** Transit frequency with error factor: 13.245 MHz
** Slew rate: 14.7002 V/mu_s
** Phase margin: 65.3172°
** CMRR: 143 dB
** negPSRR: 45 dB
** posPSRR: 48 dB
** VoutMax: 4.25 V
** VoutMin: 0.550001 V
** VcmMax: 4.08001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 121.202 muA
** NormalTransistorPmos: -5.09499 muA
** NormalTransistorPmos: -33.4379 muA
** NormalTransistorNmos: 25.0421 muA
** NormalTransistorNmos: 25.0411 muA
** NormalTransistorNmos: 25.0421 muA
** NormalTransistorNmos: 25.0411 muA
** NormalTransistorPmos: -50.0859 muA
** NormalTransistorPmos: -25.0429 muA
** NormalTransistorPmos: -25.0429 muA
** NormalTransistorNmos: 73.5731 muA
** NormalTransistorNmos: 73.5741 muA
** NormalTransistorPmos: -73.5739 muA
** NormalTransistorPmos: -73.5749 muA
** DiodeTransistorPmos: -73.5739 muA
** NormalTransistorNmos: 73.5731 muA
** NormalTransistorNmos: 73.5741 muA
** DiodeTransistorNmos: 5.09401 muA
** DiodeTransistorNmos: 33.4371 muA
** DiodeTransistorPmos: -121.201 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.25301  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 0.556001  V
** innerComplementarySecondStage: 4.24601  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** out1FirstStage: 0.556001  V
** out2FirstStage: 0.952001  V
** outVoltageBiasXXnXX0: 0.560001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 0.395001  V
** innerTransistorStack2Load1: 0.395001  V
** sourceTransconductance: 3.24201  V
** innerStageBias: 4.81001  V
** innerTransconductance: 0.151001  V
** inner: 0.151001  V


.END