** Name: SymmetricalOpAmp94

.MACRO SymmetricalOpAmp94 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 out2FirstStage out2FirstStage sourceNmos sourceNmos nmos4 L=8e-6 W=8e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos3 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=29e-6
mDiodeTransistorPmos4 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=1e-6 W=26e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=8e-6 W=115e-6
mNormalTransistorNmos6 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=8e-6 W=152e-6
mNormalTransistorNmos7 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=8e-6 W=152e-6
mNormalTransistorNmos8 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=8e-6 W=115e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=44e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=44e-6
mNormalTransistorNmos11 SecondStageYinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=136e-6
mNormalTransistorNmos12 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=136e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=35e-6
mNormalTransistorPmos14 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=196e-6
mNormalTransistorPmos15 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=35e-6
mNormalTransistorPmos16 out2FirstStage ibias sourcePmos sourcePmos pmos4 L=1e-6 W=26e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=169e-6
mNormalTransistorPmos18 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=29e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp94

** Expected Performance Values: 
** Gain: 83 dB
** Power consumption: 3.68501 mW
** Area: 5391 (mu_m)^2
** Transit frequency: 13.0351 MHz
** Transit frequency with error factor: 13.0348 MHz
** Slew rate: 51.5274 V/mu_s
** Phase margin: 65.3172°
** CMRR: 136 dB
** negPSRR: 34 dB
** posPSRR: 42 dB
** VoutMax: 3.45001 V
** VoutMin: 0.550001 V
** VcmMax: 3.56001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -25.9599 muA
** NormalTransistorNmos: 85.6721 muA
** NormalTransistorNmos: 85.6711 muA
** NormalTransistorNmos: 85.6721 muA
** NormalTransistorNmos: 85.6711 muA
** NormalTransistorPmos: -171.344 muA
** NormalTransistorPmos: -85.6729 muA
** NormalTransistorPmos: -85.6729 muA
** NormalTransistorNmos: 259.896 muA
** NormalTransistorNmos: 259.897 muA
** NormalTransistorPmos: -259.895 muA
** NormalTransistorPmos: -259.896 muA
** DiodeTransistorPmos: -259.897 muA
** DiodeTransistorPmos: -259.898 muA
** NormalTransistorNmos: 259.898 muA
** NormalTransistorNmos: 259.897 muA
** DiodeTransistorNmos: 25.9591 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.19901  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 3.72501  V
** inSourceTransconductanceComplementarySecondStage: 0.556001  V
** innerComplementarySecondStage: 2.41101  V
** out: 2.5  V
** out1FirstStage: 0.556001  V
** out2FirstStage: 0.956001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 0.285001  V
** innerTransistorStack2Load1: 0.285001  V
** sourceTransconductance: 3.70201  V
** innerStageBias: 3.24701  V
** innerTransconductance: 0.151001  V
** inner: 0.151001  V


.END