** Name: SymmetricalOpAmp98

.MACRO SymmetricalOpAmp98 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 out2FirstStage out2FirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=42e-6
mDiodeTransistorPmos3 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=1e-6 W=11e-6
mDiodeTransistorPmos4 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=2e-6 W=61e-6
mNormalTransistorNmos6 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=2e-6 W=83e-6
mNormalTransistorNmos7 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=2e-6 W=83e-6
mNormalTransistorNmos8 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=2e-6 W=61e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=34e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=34e-6
mNormalTransistorNmos11 SecondStageYinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=47e-6
mNormalTransistorNmos12 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=47e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=311e-6
mNormalTransistorPmos14 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=1e-6 W=11e-6
mNormalTransistorPmos15 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=311e-6
mNormalTransistorPmos16 out2FirstStage ibias sourcePmos sourcePmos pmos4 L=4e-6 W=169e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=541e-6
mNormalTransistorPmos18 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp98

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 1.85501 mW
** Area: 5676 (mu_m)^2
** Transit frequency: 15.2521 MHz
** Transit frequency with error factor: 15.2525 MHz
** Slew rate: 17.8657 V/mu_s
** Phase margin: 83.0789°
** CMRR: 143 dB
** negPSRR: 52 dB
** posPSRR: 97 dB
** VoutMax: 3.08001 V
** VoutMin: 0.310001 V
** VcmMax: 4.02001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -40.6939 muA
** NormalTransistorNmos: 65.1351 muA
** NormalTransistorNmos: 65.1341 muA
** NormalTransistorNmos: 65.1351 muA
** NormalTransistorNmos: 65.1341 muA
** NormalTransistorPmos: -130.27 muA
** NormalTransistorPmos: -65.1359 muA
** NormalTransistorPmos: -65.1359 muA
** NormalTransistorNmos: 89.5171 muA
** NormalTransistorNmos: 89.5181 muA
** NormalTransistorPmos: -89.5179 muA
** DiodeTransistorPmos: -89.5189 muA
** DiodeTransistorPmos: -90.4229 muA
** NormalTransistorPmos: -90.4239 muA
** NormalTransistorNmos: 90.4221 muA
** NormalTransistorNmos: 90.4211 muA
** DiodeTransistorNmos: 40.6931 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.20501  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 3.75801  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 2.51601  V
** out: 2.5  V
** out1FirstStage: 0.555001  V
** out2FirstStage: 0.715001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 0.151001  V
** innerTransistorStack2Load1: 0.151001  V
** sourceTransconductance: 3.25101  V
** innerTransconductance: 0.150001  V
** inner: 3.75501  V
** inner: 0.150001  V


.END