** Name: SymmetricalOpAmp113

.MACRO SymmetricalOpAmp113 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=10e-6 W=44e-6
mDiodeTransistorNmos2 innerComplementarySecondStage innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=36e-6
mDiodeTransistorPmos3 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=4e-6
mNormalTransistorNmos4 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=17e-6
mNormalTransistorNmos5 out innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=36e-6
mNormalTransistorNmos6 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=17e-6
mNormalTransistorNmos7 out2FirstStage ibias sourceNmos sourceNmos nmos4 L=10e-6 W=59e-6
mNormalTransistorNmos8 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=10e-6 W=53e-6
mNormalTransistorPmos9 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=3e-6 W=136e-6
mNormalTransistorPmos10 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=3e-6 W=44e-6
mNormalTransistorPmos11 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=3e-6 W=136e-6
mNormalTransistorPmos12 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=3e-6 W=44e-6
mNormalTransistorPmos13 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=6e-6 W=6e-6
mNormalTransistorPmos14 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=6e-6 W=6e-6
mNormalTransistorPmos15 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=6e-6 W=18e-6
mNormalTransistorPmos16 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=6e-6 W=18e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp113

** Expected Performance Values: 
** Gain: 54 dB
** Power consumption: 0.360001 mW
** Area: 3466 (mu_m)^2
** Transit frequency: 3.33401 MHz
** Transit frequency with error factor: 3.33428 MHz
** Slew rate: 3.64243 V/mu_s
** Phase margin: 72.1927°
** CMRR: 97 dB
** negPSRR: 111 dB
** posPSRR: 64 dB
** VoutMax: 4.27001 V
** VoutMin: 0.150001 V
** VcmMax: 4.82001 V
** VcmMin: 0.740001 V


** Expected Currents: 
** NormalTransistorNmos: 13.5361 muA
** NormalTransistorPmos: -5.97499 muA
** NormalTransistorPmos: -5.97599 muA
** NormalTransistorPmos: -5.97499 muA
** NormalTransistorPmos: -5.97599 muA
** NormalTransistorNmos: 11.9481 muA
** NormalTransistorNmos: 5.97401 muA
** NormalTransistorNmos: 5.97401 muA
** NormalTransistorNmos: 18.2791 muA
** NormalTransistorPmos: -18.2799 muA
** NormalTransistorPmos: -18.2789 muA
** DiodeTransistorNmos: 18.2791 muA
** NormalTransistorPmos: -18.2799 muA
** NormalTransistorPmos: -18.2789 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -13.5369 muA


** Expected Voltages: 
** ibias: 0.569001  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 3.85501  V
** innerComplementarySecondStage: 0.560001  V
** out: 2.5  V
** out1FirstStage: 3.85501  V
** out2FirstStage: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.40101  V
** innerTransistorStack2Load1: 4.40101  V
** sourceTransconductance: 1.92401  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V


.END